US04337081
5-Trifluoroacetamido-3-Trichloromethyl-1,2,4-Thiadiazole
To a solution of 10.9 grams (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole in 300 milliliters diethylether was added 10.5 grams (0.05 mole) trifluoroacetic anhydride over 15 minutes in a slight exothermic reaction to about 30° C. After standing at room temperature for 15 hours, the low boiling materials were distilled in vacuo. The semi-solid residue was heated with 100 milliliters hexane to remove the insoluble starting amine and the filtrate concentrated in vacuo to precipitate 8.0 grams (51% yield) of pure product; m.p. 115.8° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 10.9 grams | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | trifluoroacetic anhydride | 0.05 mole, 10.5 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethylether | 300 milliliters | C(C)OCC | C4H10O
product | 5-Trifluoroacetamido-3-Trichloromethyl-1,2,4-Thiadiazole | 8.0 grams, 51% yield | FC(C(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl)(F)F | C5HCl3F3N3OS
